US06878718B2
3-Ethoxy-7-methoxyspiro[3.5]non-2-en-1-one
Was prepared from 4-methoxy cyclohexanecarbonyl chloride (10 g, 52.1 mmol) and ethoxyacetylene (7.5 g, 0.10 mol) according to the method of Intermediate 1 to give the title compound as an approx. 1:1 mixture of isomers, as a pale yellow oil (7.2 g, 34.4 mmol, 65%). δH (CDCl3, 300K) 4.81-4.79 (1H, s), 4.22-4.20 (2H q, J 7.1 Hz), 3.34-3.32 (3H, s), 3.31-3.22 (1H, m), 2.04-1.56 (8H, m), 1.44-1.43 (3H t, J 7.1 Hz); m/z (ES+, 70V) 211.0 (MH+).

reactant | 4-methoxy cyclohexanecarbonyl chloride | 52.1 mmol, 10 g | COC1CCC(CC1)C(=O)Cl | C8H13ClO2
reactant | ethoxyacetylene | 0.10 mol, 7.5 g | C(C)OC#C | C4H6O
product | 3-Ethoxy-7-methoxyspiro[3.5]non-2-en-1-one | C(C)OC1=CC(C12CCC(CC2)OC)=O | C12H18O3
